US07659267B2
2-(3-Bromophenyl)-4H-1,3-benzothiazin-4-one
A mixture of 3-bromobenzonitrile (2.00 g, 11 mmol), methyl thiosalicylate (2.87 g, 17 mmol), triethylamine (1.95 g, 19 mmol) and toluene (10 ml) was heated and refluxed under a nitrogen flow for 40 hours. The precipitated crystals were taken by filtration and recrystallized from tetrahydrofuran-ethyl acetate to give the title compound (0.72 g, 21%) as crystals.

reactant | 3-bromobenzonitrile | 11 mmol, 2.00 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | methyl thiosalicylate | 17 mmol, 2.87 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 19 mmol, 1.95 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Bromophenyl)-4H-1,3-benzothiazin-4-one | 0.72 g, 21% | BrC=1C=C(C=CC1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H8BrNOS
